US07723333B2
1-Mesitylpropan-2-ol
Mesitylacetaldehyde (0.68 g, 4.19 mmol) was dissolved in THF (5.0 mL, dry) and MeMgBr in Et2O (3.0M, 0.75 g, 6.29 mmol)) was added slowly at 0° C. The cooling bath was removed and the reaction mixture was stirred at rt for 4.5 h. The mixture was cooled to 0° C. and excess Grignard reagent was hydrolyzed with HCl (1N). The mixture was diluted with water and extracted with Et2O. The organic layer was dried over Na2SO4, evaporated and the residue was purified by column chromatography on silica gel using MTBE, heptane and DCM as eluant giving the title compound (0.51 g, 61%). 1H NMR (CDCl3, 500 MHz) δ 6.88-6.85 (m, 2H), 4.08-3.99 (m, 1H), 2.87-2.72 (m, 2H), 2.32 (s, 6H), 2.26 (s, 3H), 1.29 (d, 3H).

reactant | Mesitylacetaldehyde | 4.19 mmol, 0.68 g | C1(=C(C(=CC(=C1)C)C)CC=O)C | C11H14O
reactant | MeMgBr | C[Mg+].[Br-]
reactant | Et2O | 6.29 mmol, 3.0M, 0.75 g | CCOCC | C4H10O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 1-Mesitylpropan-2-ol | 0.51 g, 61% | C1(=C(C(=CC(=C1)C)C)CC(C)O)C | C12H18O
